US06664111B2
Synthesis of 4-(4-but-3-enylphenyl)-7-phenyl-1,10-phenanthroline (Route B)
4-(3-Butenyl)phenylboronic acid is made by the method of Nakashima and Irie (Nakashima, H.; Irie, M. Macromol. Chem. Phys. 200, 683-692). 4-(3-butenyl)phenylboronic acid (0.44 g) and a solution of Pd(Ph3)4 (58 mg) in 5 mL of degassed toluene is placed in a 50 mL Schlenk tube. The mixture is purged with nitrogen, after which a solution of 4-bromo-7-phenyl-1,10-phenanthroline (0.670 g) and Na2CO3 (428 mg, 4 mmol) in 5 mL of degassed 4:1H2O/CH3OH is added. The mixture is heated under nitrogen at 100° C. with rapid stirring until TLC monitoring shows the reaction to be complete (ca 24 hrs). The reaction mixture is then added to a separatory funnel and washed with ether (3×50 mL). The combined organic fractions are dried over MgSO4 and concentrated by roto-evaporation. The desired product is purified by column chromatography on silica gel using a mixture of ethyl acetate and hexane.

reactant | 4-(3-Butenyl)phenylboronic acid | C(CC=C)C1=CC=C(C=C1)B(O)O | C10H13BO2
reactant | 4-(3-butenyl)phenylboronic acid | 0.44 g | C(CC=C)C1=CC=C(C=C1)B(O)O | C10H13BO2
reactant | 4-bromo-7-phenyl-1,10-phenanthroline | 0.670 g | BrC1=CC=NC2=C3N=CC=C(C3=CC=C12)C1=CC=CC=C1 | C18H11BrN2
reactant | Na2CO3 | 4 mmol, 428 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH3OH | CO | CH4O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-but-3-enylphenyl)-7-phenyl-1,10-phenanthroline | C(CC=C)C1=CC=C(C=C1)C1=CC=NC2=C3N=CC=C(C3=CC=C12)C1=CC=CC=C1 | C28H22N2
